2183-08-15 07:16:00 Physician Resident Progress Note
Chief Complaint: transfer from [**Location (un) 3**] for cath
   24 Hour Events:
   Patient ambulating well
 heparin SQ d/c'd.  Ophlalmoscopic exam wnl -
   no av nicking, no hemorrhages or cotton wool spots, no papilledema.
   D/C
d nitro drip and nifedipine. Started Coreg 12.5 [**Hospital1 **].
   Iron studies neg for hemochromatosis
   Urine metanephrines pending
   CXR abnormal and concerning for superior mediastinal mass
   Allergies: NKDA
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-8-14**] 08:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-8-15**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 90 (87 - 109) bpm
   BP: 153/90(106) {119/69(81) - 182/110(121)} mmHg
   RR: 21 (10 - 27) insp/min
   SpO2: 96%
   Heart rhythm: Sinus
   Wgt (current): 130.2 kg (admission): 122.7 kg
   Height: 71 Inch
                  Total In:
                                                                  1,340 mL
                                                                    120 mL
   PO:
                                                                  1,340 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,210 mL
                                                                      0 mL
   Urine:
                                                                  1,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    130 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   GEN: NAD, sitting up
   HEENT: JVD 2 inches above clavicle, no neck masses or lymphadenopathy
   Heart: RRR, S3. nl S1, S2
   Lungs: crackles
 way up posteriorly
   Abd: nl BS soft NTND
   Ext: (Right radial pulse: Not assessed), (Left radial pulse: Not
   assessed), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Labs / Radiology
   252 K/uL
   14.1 g/dL
   102 mg/dL
   1.2 mg/dL
   26 mEq/L
   4.0 mEq/L
   21 mg/dL
   107 mEq/L
   143 mEq/L
   41.0 %
   11.8 K/uL
        [image002.jpg]
                             [**2183-8-13**]  05:59 PM
                             [**2183-8-14**]  06:00 AM
                             [**2183-8-15**]  04:07 AM
   WBC
   13.3
   15.1
   11.8
   Hct
   42.9
   42.0
   41.0
   Plt
   245
   237
   252
   Cr
   1.2
   1.2
   1.2
   Glucose
   114
   116
   102
   Other labs: ALT / AST:71/23, Alk Phos / T Bili:48/2.4, Amylase /
   Lipase:/36, Differential-Neuts:80.9 %, Lymph:13.7 %, Mono:4.9 %,
   Eos:0.5 %, LDH:230 IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL.
   TIBC 291, Ferritin 55, Iron 34. TSH 0.96. TC 118, TG 113, HDL 29, LDL
   66. HIV neg.
   Assessment and Plan
   ASSESSMENT AND PLAN: 50yo overweight M no [**Hospital **] transferred from OSH with
   hypertensive emergency with systolic HF on ECHO now s/p cath with clean
   arteries.
   .
   # PUMP: Subacute systolic heart failure given low EF and SOB for 1
   month. Cardiomyopathy with unclear etiology - most likely [**12-30**]
   hypertension vs. alcohol. Amyloid, hemochromatosis, thyroid, HIV workup
   negative. ECHO demonstrated EF 15-20% and moderate symmetric LVH. Cath
   showed mild diffuse disease with elevated left and right sided
   diastolic filling pressures but no focal lesions. Diuresed well
   currently -2,190mL since admission
   - Lisinopril 40 mg po qd
   - Carvedilol 12.5 po bid
   - Low salt diet
   .
   # CORONARIES: Cath showed mild diffuse disease with no focal lesions of
   note. Cholesterol studies show LDL 66, HDL 29, TG 113, Chol 118.
   - Start prophylactic 81 mg ASA daily
   - No need for lipid lowering therapy at this time.
   .
   # RHYTHM: Sinus. No rhythm disturbances.
   .
   # Hypertension: Admitted with hypertensive emergency. No renal artery
   stenosis seen on cath. Potassium within normal limits therefore
   unlikely hyperaldosteronism. TSH wnl. [**Location (un) 1979**] unlikely. Most likely
   etiology is primary HTN confounded by possible OSA and obesity.
   - f/u urine catecholamines to eval for pheo
   - On Carvedilol, Lisinopril
   .
   # Leukocytosis: No symptoms to suggest infection. Mild left shift.
   Trending down.
   - Continue to follow - will culture if spikes
   .
   FEN: Low salt diet.
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx: pt is ambulating
   -Bowel regimen with senna, colace
   .
   CODE: Full Code
   .
   COMM: [**Name (NI) **]
   .
   DISPO: can callout to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2183-8-13**] 04:53 PM
   20 Gauge - [**2183-8-13**] 04:55 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MS4 Addendum:
   1+ pitting edema in bilateral lower extremities to mid calf
   Will give Lasix 10 po x1 and monitor UOP
   For possible neck mass seen on CXR will get neck CT without contrast.
   Alcohol cessation education, nutrition consult, cardiology followup,
   structured cardiac rehab. Will call out to floor.
   ------ Protected Section Addendum Entered By:[**Name (NI) 8938**] [**Last Name (NamePattern1) 8939**] Medical
   Student  on:[**2183-8-15**] 12:15 ------
   12:15